2178-07-31 06:55:00 Physician Resident Progress Note
Chief Complaint: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia.  Y-stent was removed yesterday,
   transferred to the ICU team for further management.
   24 Hour Events:
   -Transfered to MICU in the evening.
   -Discussed with sister [**Name (NI) 653**] and obtained ICU consent.
   -Seemed to have consistently better oxygenation with left side more
   dependent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-7-30**] 08:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-7-31**] 03:51 AM
   Ciprofloxacin - [**2178-7-31**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-7-30**] 08:16 PM
   Midazolam (Versed) - [**2178-7-31**] 01:20 AM
   Fentanyl - [**2178-7-31**] 01:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-31**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 91 (88 - 107) bpm
   BP: 108/54(74) {79/44(57) - 117/61(80)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  6,517 mL
                                                                    845 mL
   PO:
             TF:
                                                                    488 mL
                                                                    408 mL
   IVF:
                                                                  5,819 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  1,119 mL
                                                                    420 mL
   Urine:
                                                                  1,049 mL
                                                                    420 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  5,398 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 665 (665 - 665) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 92%
   ABG: 7.35/58/91.[**Numeric Identifier 143**]/30/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 153
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.3 g/dL
   159 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   20 mg/dL
   102 mEq/L
   140 mEq/L
   27.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2178-7-30**]  01:37 AM
                             [**2178-7-30**]  02:00 AM
                             [**2178-7-30**]  06:15 AM
                             [**2178-7-30**]  10:52 AM
                             [**2178-7-30**]  09:06 PM
                             [**2178-7-31**]  02:30 AM
                             [**2178-7-31**]  03:12 AM
   WBC
   7.4
   6.8
   Hct
   29.5
   27.0
   Plt
   109
   93
   Cr
   0.4
   0.4
   TCO2
   34
   32
   31
   31
   33
   Glucose
   157
   159
   Other labs: PT / PTT / INR:12.2/33.3/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia.  Y-stent was removed yesterday,
   transferred to the ICU team for further management.
   .
   # Respiratory failure - intubated for airway protection in preparation
   for her bronchoscopy and stent removal.  Given her substantial
   pnuemonia she was not able to be extubated post-procedure
   - IP consult appreciated.
   - continue mechanical ventillation - A/C
   - follow ABGs.
   .
   # Hypotension - likely sepsis, initially thought to be possible adrenal
   insufficiency, having been on steroids recently.
   - fluid bolus to keep MAP>60
   - wean sedation as possible.
   - continue stress dose steroids - hydrocort 100mg q8hrs
   - did not need pressors overnight.
   - no central access currently - discussed last night.  The patient's
   SVC is surrounded by and slighly compressed by tumor, so if she does
   need a central line a femoral approach would be
   .
   # PNA - Patient with both a post-obstructive RUL and likely LLL PNA.
   Given her steroid usage, concern re: immunosuppression.  Patient was
   noted to  have thrush in airway.
   - fup BAL, blood cx
   - continue zosyn, cipro, vancomycin and fluconazole for now.  narrow as
   able.
   - ID consult appreciated.
   - will attempt to obtain old CT scan.
   .
   # NSCLC - Decadron use was possibly part of her chemotherapy regimen.
   Unknown duration of steroid therapy
   - will continue stress dose steroids for now.
   - will obtain records from oncologist if possible.
   .
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - continue to monitor
   .
   # FEN: IVF bolus as above, TF, replete electrolytes
   .
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   .
   # Access: PIV, likely will need to place central line
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-7-31**] 03:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   18 Gauge - [**2178-7-29**] 08:13 PM
   20 Gauge - [**2178-7-30**] 03:48 AM
   Prophylaxis:
   DVT:   subQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:  discussed at length with HCP (sister) last
   night.
   Code status:  Full
   Disposition:  ICU

2178-07-31 10:39:00 Physician Attending Progress Note
Chief Complaint: Multilobar peumonia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP stable overnight
   24 Hour Events:
   Remains on 60% FIO2
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-7-31**] 06:00 AM
   Vancomycin - [**2178-7-31**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-7-31**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-7-31**] 08:00 AM
   Fentanyl - [**2178-7-31**] 08:20 AM
   Midazolam (Versed) - [**2178-7-31**] 08:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-7-31**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 100 (88 - 107) bpm
   BP: 113/59(77) {79/44(57) - 121/61(81)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  6,517 mL
                                                                  1,442 mL
   PO:
             TF:
                                                                    488 mL
                                                                    626 mL
   IVF:
                                                                  5,819 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  1,119 mL
                                                                    640 mL
   Urine:
                                                                  1,049 mL
                                                                    640 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  5,398 mL
                                                                    802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 90%
   ABG: 7.35/58/91.[**Numeric Identifier 143**]/30/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R apex)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   93 K/uL
   159 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   20 mg/dL
   102 mEq/L
   140 mEq/L
   27.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2178-7-30**]  01:37 AM
                             [**2178-7-30**]  02:00 AM
                             [**2178-7-30**]  06:15 AM
                             [**2178-7-30**]  10:52 AM
                             [**2178-7-30**]  09:06 PM
                             [**2178-7-31**]  02:30 AM
                             [**2178-7-31**]  03:12 AM
   WBC
   7.4
   6.8
   Hct
   29.5
   27.0
   Plt
   109
   93
   Cr
   0.4
   0.4
   TCO2
   34
   32
   31
   31
   33
   Glucose
   157
   159
   Other labs: PT / PTT / INR:12.2/33.3/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia she is s/p y-stent removal and is being
   transferred to the ICU team for further management.
   # Respiratory failure - Hypoxemic with FIO2 of 0.6.  Will increase PEEP
   to 12
   # Septic shock: BP stable off pressors
   # PNA - Will continue cipro/vanco/zosyn
   # NSCLC - On Decadron at baseline - will taper back steroids to
   baseline dose and taper further.  Will also start PCP [**Name Initial (PRE) 2674**].  Chemo on
   hold for moment
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-7-31**] 07:44 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   18 Gauge - [**2178-7-29**] 08:13 PM
   20 Gauge - [**2178-7-30**] 03:48 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-08-01 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2178-7-31**] 12:30 PM
 BLOOD CULTURED - At [**2178-7-31**] 05:00 PM
   peripheral
 URINE CULTURE - At [**2178-7-31**] 05:00 PM
 BLOOD CULTURED - At [**2178-7-31**] 05:29 PM
   via Aline
 SPUTUM CULTURE - At [**2178-7-31**] 06:28 PM
 FEVER - 101.3
F - [**2178-8-1**] 06:00 AM
   -Increased PEEP to 12.
   -ABG at 2pm: 7.29/71/80; looked like she was still overbreathing the
   vent a bit and sats in high 80's. increased RR from 16 to 20. increased
   PEEP to 20. increased sedation. increased FiO2 from 60 to 70 b/c
   derecruitment didnt work. repeat ABG at 4pm: 7.34/60/84.
   -Repeat ABG at 6:30pm 7.26/74/95/35. Increased tidal volume to 450.
   decreased FiO2 to 65%.
   -mid-line PICC placed
   -palliative care following and left a note
   -no new ID recs
   -febrile to 101; pan cultured
   -somewhat thrombocytopenic, platelets 205 at OSH, 93 this AM. 600 in
   [**6-28**]. likely [**12-22**] chemo rather than HIT. will trend for now. still
   on subQ heparin and heparin flushes for PICC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-7-31**] 06:01 PM
   Vancomycin - [**2178-7-31**] 09:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-7-31**] 10:38 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2178-7-31**] 01:56 PM
   Midazolam (Versed) - [**2178-7-31**] 01:57 PM
   Heparin Sodium (Prophylaxis) - [**2178-7-31**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 97 (93 - 112) bpm
   BP: 105/52(69) {91/46(62) - 121/60(81)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  3,290 mL
                                                                    538 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    431 mL
   IVF:
                                                                  1,554 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    770 mL
   Urine:
                                                                  1,280 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,010 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 93%
   ABG: 7.39/57/98.[**Numeric Identifier 176**]/30/7
   Ve: 9.9 L/min
   PaO2 / FiO2: 151
   Physical Examination
   Gen: Not responsive to commands, intubated
   CV: regular rate
   Resp: diffuse rhonchi
   Abd: soft, NTND
   Ext: WWP
   Labs / Radiology
   102 K/uL
   7.5 g/dL
   182 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.7 mEq/L
   26 mg/dL
   103 mEq/L
   139 mEq/L
   24.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-7-30**]  09:06 PM
                             [**2178-7-31**]  02:30 AM
                             [**2178-7-31**]  03:12 AM
                             [**2178-7-31**]  01:02 PM
                             [**2178-7-31**]  01:30 PM
                             [**2178-7-31**]  04:01 PM
                             [**2178-7-31**]  06:26 PM
                             [**2178-7-31**]  09:03 PM
                             [**2178-8-1**]  03:27 AM
                             [**2178-8-1**]  03:43 AM
   WBC
   6.8
   6.5
   Hct
   27.0
   24.6
   Plt
   93
   102
   Cr
   0.4
   0.5
   TCO2
   31
   33
   35
   36
   34
   35
   33
   36
   Glucose
   159
   163
   180
   182
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: cxr
   1. No significant change in extensive right mid and upper lung
   consolidation
   consistent with post-obstructive pneumonia/atelectasis.
   2. No significant change in the confluent opacity in the left mid and
   lower lung.
   3. Diffuse lung nodularity may represent metastatic spread, and/or
   superimposed infection, as described on recent CT.
   [**Year (4 digits) 6452**]: BAL ([**7-29**])
      GRAM STAIN (Final [**2178-7-29**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Final [**2178-7-31**]):
         OROPHARYNGEAL FLORA ABSENT.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
            OF TWO COLONIAL MORPHOLOGIES.
         GRAM NEGATIVE ROD #3.    ~3000/ML.
         YEAST.    10,000-100,000 ORGANISMS/ML..
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2178-7-29**]):
         TEST CANCELLED, PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies if
         pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 6452**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2178-7-29**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):
         YEAST.
      ACID FAST SMEAR (Final [**2178-7-30**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
         No Virus isolated so far.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia.  Y-stent was removed yesterday,
   transferred to the ICU team for further management.
   .
   # Respiratory failure - intubated for airway protection in preparation
   for her bronchoscopy and stent removal.  Given her substantial
   pnuemonia she was not able to be extubated post-procedure
   -continue abx
   - started bactrim ppx
   - IP consult appreciated
   - continue mechanical ventillation - A/C switch to ardsnet settings;
   increased PEEP to 12; will attempt to wean FiO2 further today
   - follow ABGs.
   .
   # Hypotension - likely sepsis, initially thought to be possible adrenal
   insufficiency, having been on steroids recently.
   - fluid bolus to keep MAP>60, has not yet required pressors
   - wean sedation as possible.
   - continue steroids -switched from hydrocort to Dexamethasone 4 mg IV
   Q12H yesterday (will need 2 wk taper).
   .
   # PNA - Patient with both a post-obstructive RUL and likely LLL PNA.
   Given her steroid usage, concern re: immunosuppression.  Patient was
   noted to  have thrush in airway.
   -+/- therapeutic bronch; unclear how much this will help; not possible
   to do any stenting to relieve obstruction
   - fup BAL cultures, blood cx
   - continue zosyn, cipro, vancomycin and fluconazole for now.  narrow as
   able.
   -On bactrim prophylaxis
   - ID consult appreciated.
   .
   # NSCLC - Decadron use was possibly part of her chemotherapy regimen.
   Unknown duration of steroid therapy
   - decadron as above; bactrim ppx
   .
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - continue to monitor
   -note, getting heparin TID and  heparin flushes
   .
   # FEN: IVF bolus as above, TF, replete electrolytes
   .
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   .
   # Access: midline, 2  peripherals, A line
   .
   # Code: full
   .
   # Communication: Sister ; palliative care following also
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-7-31**] 03:29 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   18 Gauge - [**2178-7-29**] 08:13 PM
   20 Gauge - [**2178-7-30**] 03:48 AM
   Midline - [**2178-7-31**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Sister
   [**Name (NI) 36**] status: FULL
   Disposition:ICU

2178-08-01 10:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PEEP up to 12 and FIO2 0.65
   24 Hour Events:
 MIDLINE - START [**2178-7-31**] 12:30 PM
 BLOOD CULTURED - At [**2178-7-31**] 05:00 PM
   peripheral
 URINE CULTURE - At [**2178-7-31**] 05:00 PM
 BLOOD CULTURED - At [**2178-7-31**] 05:29 PM
   via Aline
 SPUTUM CULTURE - At [**2178-7-31**] 06:28 PM
 FEVER - 101.3
F - [**2178-8-1**] 06:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-7-31**] 06:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-7-31**] 10:38 PM
   Vancomycin - [**2178-8-1**] 07:44 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2178-7-31**] 01:56 PM
   Midazolam (Versed) - [**2178-7-31**] 01:57 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-1**] 07:44 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-1**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.7
   HR: 92 (92 - 112) bpm
   BP: 119/58(78) {91/46(62) - 120/59(79)} mmHg
   RR: 20 (10 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  3,290 mL
                                                                  1,014 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    604 mL
   IVF:
                                                                  1,554 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    890 mL
   Urine:
                                                                  1,280 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,010 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 90%
   ABG: 7.39/57/98.[**Numeric Identifier 176**]/30/7
   Ve: 8.8 L/min
   PaO2 / FiO2: 151
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R apex, L base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   102 K/uL
   182 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.7 mEq/L
   26 mg/dL
   103 mEq/L
   139 mEq/L
   24.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-7-30**]  09:06 PM
                             [**2178-7-31**]  02:30 AM
                             [**2178-7-31**]  03:12 AM
                             [**2178-7-31**]  01:02 PM
                             [**2178-7-31**]  01:30 PM
                             [**2178-7-31**]  04:01 PM
                             [**2178-7-31**]  06:26 PM
                             [**2178-7-31**]  09:03 PM
                             [**2178-8-1**]  03:27 AM
                             [**2178-8-1**]  03:43 AM
   WBC
   6.8
   6.5
   Hct
   27.0
   24.6
   Plt
   93
   102
   Cr
   0.4
   0.5
   TCO2
   31
   33
   35
   36
   34
   35
   33
   36
   Glucose
   159
   163
   180
   182
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   53 yo woman with recent diagnosis of NSCLC who presented to OSH with
   pneumonia she is s/p y-stent removal and is being transferred to the
   ICU team for further management.  She has a multilobar pneumonia and
   respiratory failure
   # Respiratory failure - Will try to come down on the FIO2 today.  Try
   to decrease tidal volumes more and increase RR to try meet 6cc/kg
   # Septic shock: BP stable off pressors
   # PNA - Will continue cipro/vanco/zosyn.  ID following
   # NSCLC - Taper steroids, chemo on hold.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-7-31**] 03:29 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   18 Gauge - [**2178-7-29**] 08:13 PM
   20 Gauge - [**2178-7-30**] 03:48 AM
   Midline - [**2178-7-31**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-08-02 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ID: continue abx, f/u beta glucan and galactomannan, continue fluc for
   now though low suscpicion for fungal pna, if concern could change fluc
   to caspo for broader fungal coverage
   -fam mtg today. fam struggling to cope c prognosis. no change in code
   status for now
   -no new IP, SW, or palliative care recs
   -not bronched
   -abg 3a 7.39/57/98 on TV of 450, decreased TV and inc rr for ardsnet
   type protocol. then abgs ~7.38/64/69. increased sedation to help make
   more synchronous but this cause her ventilation to get worse s
   improvement in oxygenation. so increased RR (28) and increased peep
   c(14) c improvement in sats to 92%. new abg was 7.47/49/63. RR was
   decreased to 26. [**Month (only) 51**] need to place balloon if unable to keep sats
   >90%/paO2>60.
   -a little hypotensive c maps of 60 at 5:30a. lightened sedation. and
   gave bolus of 500cc
   -noted round ulcers concerning for hsv on bottom
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-8-1**] 06:01 PM
   Vancomycin - [**2178-8-1**] 08:26 PM
   Fluconazole - [**2178-8-1**] 10:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-2**] 04:21 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-1**] 08:26 PM
   Lansoprazole (Prevacid) - [**2178-8-1**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 93 (90 - 103) bpm
   BP: 88/49(62) {88/47(62) - 132/67(88)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  3,094 mL
                                                                    614 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    397 mL
   IVF:
                                                                  1,327 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    485 mL
   Urine:
                                                                  2,050 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,044 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 340 (340 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.3 cmH2O/mL
   SpO2: 90%
   ABG: 7.47/49/63/33/10
   Ve: 8.6 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Gen: intubated, sedated, not arousable
   Cv: rrr, soft systolic murmur
   Resp: cta anteriorly
   Abd: soft, NT
   Ext: 1+ edema
   Labs / Radiology
   136 K/uL
   7.6 g/dL
   179 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.8 mEq/L
   28 mg/dL
   98 mEq/L
   138 mEq/L
   24.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2178-7-31**]  04:01 PM
                             [**2178-7-31**]  06:26 PM
                             [**2178-7-31**]  09:03 PM
                             [**2178-8-1**]  03:27 AM
                             [**2178-8-1**]  03:43 AM
                             [**2178-8-1**]  01:42 PM
                             [**2178-8-1**]  06:41 PM
                             [**2178-8-1**]  11:43 PM
                             [**2178-8-2**]  04:49 AM
                             [**2178-8-2**]  05:00 AM
   WBC
   6.5
   6.7
   Hct
   24.6
   25
   24.8
   Plt
   102
   136
   Cr
   0.5
   0.4
   TCO2
   34
   35
   33
   36
   39
   38
   39
   37
   Glucose
   180
   182
   179
   Other labs: PT / PTT / INR:11.8/31.0/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia.  Y-stent was removed yesterday,
   transferred to the ICU team for further management.
   .
   # Respiratory failure - intubated for airway protection in preparation
   for her bronchoscopy and stent removal.  Given her substantial
   pneumonia she was not able to be extubated post-procedure
   -continue broad spectrum abx.
   - started bactrim ppx given steroids treatment.
   - continue mechanical ventilation - A/C switch to ardsnet settings
   yesterday, trying to titrate RR, PEEP, FiO2 to pCO2 of 60 and pO2 of 60
   or >
   - follow ABGs.
   -follow ID recs.
   -start caspafungin, DC fluconazole.
   -consider balloon placement if continued difficulty ventilating.
   .
   # Hypotension - likely sepsis, initially thought to be possible adrenal
   insufficiency, having been on steroids recently.
   - fluid bolus to keep MAP>65, has not yet required pressors.
   - wean sedation as possible.  Increased yesterday due to dyssynchrony,
   but reduced slightly overnight.
   - continue steroids - currently Dexamethasone 4 mg IV Q12H 2 days ago
   (will need 2 wk taper).
   - will reduce today
 4 mg Qam, 2 mg Qpm, then plan for 2 mg [**Hospital1 7**]
   tomorrow.
   .
   # PNA - Patient with both a post-obstructive RUL and likely LLL PNA.
   Given her steroid usage, concern re: immunosuppression.  Patient was
   noted to  have thrush in airway.
   -+/- therapeutic bronch; unclear how much this will help; not possible
   to do any stenting to relieve obstruction
   - fup BAL cultures, blood cx
   - continue zosyn, cipro, vancomycin and fluconazole for now.  [**Month (only) 51**] be
   able to d/c fluc as starting caspo
   -will start  caspo for fungal pna (the tree in [**Male First Name (un) **] part, not the
   postobstructive part) in the setting of immunosuppression/chem
   -On bactrim prophylaxis
   - ID consult appreciated.
   .
   # ?ulcers c/w HSV on bottom
   -could swab for HSV
   .
   # NSCLC - Decadron use was possibly part of her chemotherapy regimen.
   Unknown duration of steroid therapy
   - decadron as above; bactrim ppx
   .
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - continue to monitor
   -note, getting heparin TID and  heparin flushes
   .
   # FEN: IVF bolus as above, TF, replete electrolytes
   .
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   .
   # Access: midline, 2  peripherals, A line
   .
   # Code: full
   .
   # Communication: Sister ; palliative care and social work following.
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-7-31**] 03:29 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   20 Gauge - [**2178-7-30**] 03:48 AM
   Midline - [**2178-7-31**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition: ICU

2178-08-02 09:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Family meeting yesterday to update on progress
   Mild hypotension this AM responsive to lightening of sedation plus
   fluid bolus
   24 Hour Events:
   FIO2 remains at 0.65
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-1**] 10:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-2**] 04:21 AM
   Ciprofloxacin - [**2178-8-2**] 06:37 AM
   Bactrim (SMX/TMP) - [**2178-8-2**] 08:00 AM
   Vancomycin - [**2178-8-2**] 08:45 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2178-8-1**] 08:26 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-2**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-2**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 87 (82 - 103) bpm
   BP: 105/58(74) {88/49(62) - 132/67(88)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  3,096 mL
                                                                  1,801 mL
   PO:
             TF:
                                                                  1,449 mL
                                                                    573 mL
   IVF:
                                                                  1,327 mL
                                                                  1,177 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    735 mL
   Urine:
                                                                  2,050 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 34 cmH2O/mL
   SpO2: 92%
   ABG: 7.44/53/87.[**Numeric Identifier 181**]/33/9
   Ve: 9 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R apex)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   136 K/uL
   179 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.8 mEq/L
   28 mg/dL
   98 mEq/L
   138 mEq/L
   24.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2178-7-31**]  06:26 PM
                             [**2178-7-31**]  09:03 PM
                             [**2178-8-1**]  03:27 AM
                             [**2178-8-1**]  03:43 AM
                             [**2178-8-1**]  01:42 PM
                             [**2178-8-1**]  06:41 PM
                             [**2178-8-1**]  11:43 PM
                             [**2178-8-2**]  04:49 AM
                             [**2178-8-2**]  05:00 AM
                             [**2178-8-2**]  07:05 AM
   WBC
   6.5
   6.7
   Hct
   24.6
   25
   24.8
   Plt
   102
   136
   Cr
   0.5
   0.4
   TCO2
   35
   33
   36
   39
   38
   39
   37
   37
   Glucose
   182
   179
   Other labs: PT / PTT / INR:11.8/31.0/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   53 yo woman with recent diagnosis of NSCLC who presented to OSH with
   pneumonia she is s/p y-stent removal and is being transferred to the
   ICU team for further management.  She has a multilobar pneumonia and
   respiratory failure
   # Respiratory failure - Continue low tidal volume strategy --> sedation
   requirements high to maintain, but will continue sedative since she has
   been hypotensive with propofol.
   # Septic shock: Continue fluid boluses prn
   # PNA - Will continue cipro/vanco/zosyn.  She is on fluconazole for
   extensive evidence of airway thrush.  ID following
   # NSCLC - Cont to taper steroids, chemo on hold.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-8-2**] 07:14 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   20 Gauge - [**2178-7-30**] 03:48 AM
   Midline - [**2178-7-31**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-08-03 07:05:00 Physician Resident Progress Note
Chief Complaint: Pneumonia is setting of non-small cell lung cancer
   24 Hour Events:
   No acute overnight events.  Vent settings remain unchanged for past 24
   hours.
   ID recs:  continue cefepime/cipro for bacterial pneumonia, consider
   discontinuing vancomcin if no GPC from BAL or sputum, continue viral
   cultures for perianal ulcers, consider switching to caspofungin 70 mg x
   1 then 50 mg daily if oncerned for invasive fungal disease
   Stool Cx sent for C. Diff
   Chest X-ray performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-1**] 10:31 PM
   Bactrim (SMX/TMP) - [**2178-8-2**] 08:00 AM
   Ciprofloxacin - [**2178-8-2**] 06:00 PM
   Micafungin - [**2178-8-2**] 07:30 PM
   Vancomycin - [**2178-8-2**] 08:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-3**] 04:04 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-2**] 08:41 PM
   Lansoprazole (Prevacid) - [**2178-8-2**] 08:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-3**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 79 (76 - 93) bpm
   BP: 111/62(80) {89/48(62) - 124/67(86)} mmHg
   RR: 26 (26 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  4,399 mL
                                                                    647 mL
   PO:
             TF:
                                                                  1,447 mL
                                                                    424 mL
   IVF:
                                                                  2,682 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                  1,140 mL
   Urine:
                                                                  1,570 mL
                                                                    440 mL
   NG:
   Stool:
   700 mL
   Drains:
   Balance:
                                                                  2,829 mL
                                                                   -492 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.45/53/66/37/10
   Ve: 8.7 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General
 sedated, intubated, appears comfortable
   HEENT
 MMM, no JVP
   Lungs
 ronchi targeting RUL  and RLL, left lung fields with coarse
   breath sounds
   Cardiac
 RRR, difficult to hear over ventilation sounds
   Abdomen
 NTND, hypoactive bowel sounds, no R or G
   Ext
 WWP without clubbing, cyanosis or edema, DP 2+
   Labs / Radiology
   183 K/uL
   7.4 g/dL
   165 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.8 mEq/L
   24 mg/dL
   96 mEq/L
   136 mEq/L
   23.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2178-8-1**]  03:43 AM
                             [**2178-8-1**]  01:42 PM
                             [**2178-8-1**]  06:41 PM
                             [**2178-8-1**]  11:43 PM
                             [**2178-8-2**]  04:49 AM
                             [**2178-8-2**]  05:00 AM
                             [**2178-8-2**]  07:05 AM
                             [**2178-8-2**]  10:24 AM
                             [**2178-8-2**]  10:42 PM
                             [**2178-8-3**]  02:28 AM
   WBC
   6.7
   8.7
   Hct
   25
   24.8
   23.5
   Plt
   136
   183
   Cr
   0.4
   0.4
   TCO2
   36
   39
   38
   39
   37
   37
   38
   38
   Glucose
   179
   165
   Other labs: PT / PTT / INR:11.8/30.3/1.0, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
Sputum
 - Gram Stain:
      [**9-13**] PMNs and <10 epithelial cells/100X field.
      2+ GRAM NEGATIVE ROD(S).
 - Culture
      OROPHARYNGEAL FLORA ABSENT.
      GRAM NEGATIVE ROD(S) with MODERATE GROWTH.
      Yeast with MODERATE GROWTH
   Assessment and Plan
 SHOCK, SEPTIC
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia.  Y-stent was removed yesterday,
   transferred to the ICU team for further management.
   .
   # Respiratory failure - intubated for airway protection in preparation
   for her bronchoscopy and stent removal.  Given her substantial
   pneumonia she was not able to be extubated post-procedure
   -continue broad spectrum abx.
   - started bactrim ppx given steroids treatment.
   - continue mechanical ventilation - A/C switch to ardsnet settings
   yesterday, trying to titrate RR, PEEP, FiO2 to pCO2 of 60 and pO2 of 60
   or >
   - follow ABGs.
   -follow ID recs.
   -start caspafungin, DC fluconazole.
   -consider balloon placement if continued difficulty ventilating.
   .
   # Hypotension - likely sepsis, initially thought to be possible adrenal
   insufficiency, having been on steroids recently.
   - fluid bolus to keep MAP>65, has not yet required pressors.
   - wean sedation as possible.  Increased yesterday due to dyssynchrony,
   but reduced slightly overnight.
   - continue steroids - currently Dexamethasone 4 mg IV Q12H 2 days ago
   (will need 2 wk taper).
   - will reduce today
 4 mg Qam, 2 mg Qpm, then plan for 2 mg [**Hospital1 7**]
   tomorrow.
   .
   # PNA - Patient with both a post-obstructive RUL and likely LLL PNA.
   Given her steroid usage, concern re: immunosuppression.  Patient was
   noted to  have thrush in airway.
   -+/- therapeutic bronch; unclear how much this will help; not possible
   to do any stenting to relieve obstruction
   - fup BAL cultures, blood cx
   - continue zosyn, cipro, vancomycin and fluconazole for now.  [**Month (only) 51**] be
   able to d/c fluc as starting caspo
   -will start  caspo for fungal pna (the tree in [**Male First Name (un) **] part, not the
   postobstructive part) in the setting of immunosuppression/chem
   -On bactrim prophylaxis
   - ID consult appreciated.
   .
   # ?ulcers c/w HSV on bottom
   -could swab for HSV
   .
   # NSCLC - Decadron use was possibly part of her chemotherapy regimen.
   Unknown duration of steroid therapy
   - decadron as above; bactrim ppx
   .
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - continue to monitor
   -note, getting heparin TID and  heparin flushes
   .
   # FEN: IVF bolus as above, TF, replete electrolytes
   .
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   .
   # Access: midline, 2  peripherals, A line
   .
   # Code: full
   .
   # Communication: Sister ; palliative care and social work following.
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-8-2**] 07:14 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   Midline - [**2178-7-31**] 12:30 PM
   20 Gauge - [**2178-8-2**] 02:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-08-04 06:12:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 4443**] is a 53 year-old female with a recent
   diagnosis of non-small cell lung cancer who admitted to OSH on [**7-27**] for
   dyspnea for 1-2 days PTA.  In addition, she reported increased
   respiratory secretions, fevers and chills.  At OSH, she was found to
   have PNA and there was concern about a possible stent obstruction so
   she was transferred to BICMC on [**7-29**] for urgent bronchscopy and stent
   evaluation.  On [**7-29**] she underwent rigid bronchoscopy and it was found
   that her y-stent migrated so it was removed was removed.  She was noted
   to have thrush in her trachea.  She was intubated for the procedure and
   it was decided to keep the patient ventillated post-bronch given the
   severity of her PNA.
   24 Hour Events:
 WOUND CULTURE - At [**2178-8-3**] 03:44 PM
   perianal swab for herpes simplex
   -paO2 of 59, had to increase Fio2 from 70 to 100, PEEP from 14 to 16 in
   the mid-AM. repeat gas 7.33/69/106/38. continued to de-sat to high
   80's, increased PEEP to 18. at midnight, had stably maintained sats in
   mid 90's, last Pco2=83, so increased RR and decreased Fio2 to 90%.
   -no balloon bc uneven distribution
   -gave 20 IV lasix x 2, with good UOP; BNP 413; did not bronch
   -?HSV pneumonia
   -d/c'ed vanco as per ID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-1**] 10:31 PM
   Bactrim (SMX/TMP) - [**2178-8-2**] 08:00 AM
   Vancomycin - [**2178-8-3**] 08:41 AM
   Ciprofloxacin - [**2178-8-3**] 06:00 PM
   Micafungin - [**2178-8-3**] 09:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-4**] 04:36 AM
   Infusions:
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-3**] 05:09 PM
   Lansoprazole (Prevacid) - [**2178-8-3**] 09:43 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-3**] 09:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-4**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 95 (79 - 97) bpm
   BP: 102/60(75) {93/55(69) - 162/89(115)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,850 mL
                                                                    602 mL
   PO:
             TF:
                                                                  1,449 mL
                                                                    371 mL
   IVF:
                                                                  1,221 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  3,087 mL
                                                                    370 mL
   Urine:
                                                                  2,387 mL
                                                                    370 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -237 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.36/71/87.[**Numeric Identifier 181**]/39/10
   Ve: 10.4 L/min
   PaO2 / FiO2: 98
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   8.0 g/dL
   139 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.8 mEq/L
   27 mg/dL
   91 mEq/L
   136 mEq/L
   25.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2178-8-2**]  07:05 AM
                             [**2178-8-2**]  10:24 AM
                             [**2178-8-2**]  10:42 PM
                             [**2178-8-3**]  02:28 AM
                             [**2178-8-3**]  10:03 AM
                             [**2178-8-3**]  02:34 PM
                             [**2178-8-3**]  04:44 PM
                             [**2178-8-3**]  05:06 PM
                             [**2178-8-4**]  03:05 AM
                             [**2178-8-4**]  03:28 AM
   WBC
   8.7
   10.8
   Hct
   23.5
   25.8
   Plt
   183
   237
   Cr
   0.4
   0.4
   0.4
   TCO2
   37
   38
   38
   37
   38
   43
   42
   Glucose
   165
   152
   139
   Other labs: PT / PTT / INR:11.8/30.3/1.0, ALT / AST:64/58, Alk Phos / T
   Bili:112/0.2, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:1.9 g/dL,
   LDH:548 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo with recent diagnosis of NSCLC who
   presented to OSH with pneumonia.  Y-stent was removed and patient was
   transferred to the ICU team for further management.
   # Respiratory failure - intubated for airway protection in preparation
   for her bronchoscopy and stent removal.  Given her substantial
   pneumonia she was not able to be extubated post-procedure.   Patient
   continues to deteriorate with CXR demonstrating worsening left sided
   infiltrates concerning for infection vs. carcinomatosis vs. fluid
   overload.
   - continue broad spectrum abx.
   - continue bactrim prophylaxis given ongoing steroid treatments for
   cancer diagnosis
   - continue mechanical ventilation titrate RR, PEEP, FiO2 to goal of
   pCO2 60 and pO2  > / = 60
   - follow ABGs.
   -will start caspafungin, and dc fluconazole per ID recs.
   -will give Lasix 20 mg IV in hopes to diurese fluid from lungs if
   picture of pulmonary edema
   -will defer balloon placement considering asymmetry of air space
   disease between lung fields
   .
   # Hypotension
 likely related to sepsis with post-obstructive
   pneumonia as source
   - will continue fluid boluses to maintain MAP > 65
   - continue steroids - Dexamethasone 4 mg IV Q12H 2 days ago (will need
   2 wk taper).
   - will reduce today
 2 mg [**Hospital1 7**]
   .
   # PNA - Patient with both a post-obstructive RUL and likely LLL PNA.
   Given her steroid usage, concern re: immunosuppression.  Patient was
   also noted to have thrush in airway.
   -
   +/- therapeutic bronch; unclear how much this will help; not possible
   to do any stenting to relieve obstruction
   - fup BAL cultures, blood cx
   - continue zosyn, cipro, vancomycin and micafungin and bactrim
   prophylaxis given immunosuppresion
   - consult with ID regarding possible treatment for HSV pneumonia
   considering appearance of perianal ulcers
   .
   # Perianal Ulcers
   - consider ulcer Cx for HSV
   .
   # NSCLC - Decadron use was possibly part of her chemotherapy regimen.
   Unknown duration of steroid therapy
   - decadron as above; bactrim ppx
   .
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - continue to monitor
   -note, getting heparin TID and  heparin flushes
   .
   # FEN: IVF bolus as above, TF, replete electrolytes
   .
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   .
   # Access: midline, 2  peripherals, A line
   .
   # Code: full
   .
   # Communication: Sister ; palliative care and social work following.
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-8-3**] 10:59 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   Midline - [**2178-7-31**] 12:30 PM
   20 Gauge - [**2178-8-2**] 02:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-08-05 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt made DNR after discussion with fam by both Dr [**Last Name (STitle) 775**] and then Barb.
   -if need help from palliative care or want their presence at any fam
   mtgs, should [**First Name8 (NamePattern2) **] [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 2377**] [**Pager number 10042**] (or email if more than 24 hours in
   advance)
   -spiked to 101, sent blood cultures (20:00) and urine cultures
   (recently dced vanc)
   -12:40p ABG: 7.38/66/103/41 on FIO2 of 90%, decided not to change vent
   settings and just check again in evening. Evening ABG on same settings
   7.32/81/153... turned down FiO2 but confused as to why ventilation
   looking worse on same settings... on recheck c FiO2 of 70%
   7.33/77/65/42... so then turned FiO2 back up (sats of 92%). nsg and
   respiratory did some more weaning overnight and current gas is
   7.35/73/82 on FiO2 of 70%.
   -pretty positive today. perhaps would benefit from gentle diuresis?
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
 SHOCK, SEPTIC
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo w/ recent dx of NSCLC who
   presented to OSH with pneumonia.  Y-stent removed and patient was
   transferred to ICU for further management.
   # Respiratory failure
 patient continues to deteriorate with CXR
   demonstrating worsening left sided infiltrates concerning for infection
   vs. hemorrhage vs. carcinomatosis vs. fluid overload
   - continue broad spectrum antibiotics given prior gram [**Last Name (LF) 411**], [**First Name3 (LF) **] add
   IV bactim 320 mg IV q8H given + culture for stenotrophomonas
   - continue mechanical ventilation and titrate RR, PEEP, FiO2 to goal of
   pCO2 60 and pO2  > / = 60
   - follow up serial ABG
   - will consider balloon placement considering developing bilateral air
   space disease to identify optimal PEEP
   - will defer bronchoscopy for now as patient remains tenuous on current
   Vent settings
   - will continue to follow serial hematocrits to exclude pulmonary
   hemorrhage - stable
   # Hypotension
 likely related to sepsis with post-obstructive
   pneumonia as source
   - patient has remained stable and has not required pressors, will bolus
   PRN to maintain MAP > 65
   # PNA
 patient with post-obstructive RUL and now worsening airspace
   disease throughout left lung field likely representing spread of
   infection.  Patient was also noted initially to have thrush in mouth at
   intubation in the setting of steroid therapy for her cancer diagnosis.
   - will continue broad spectrum antibiotics pending cultures (estimated
   2-3 days) and add IV bactrim for culture + stenotrophomonas, will
   continue antifungal coverage with micafungin given appearance of thrush
   and immunosuppresion.
   .
   # Perianal Ulcers
   -  f/u wound Cx for HSV
   # NSCLC
 patient was receiving decadron initially for airway
   inflammation now on vent
   - decadron to be tapered over 2 weeks, now 2 mg [**Hospital1 7**]
   - XRT to be deferred for now as peritracheal mass in RUL may lead to
   more disseminate infection and worsening clinical picture, also patient
   may not be able to tolerate transport out of the MICU at this time
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - will continue serial HCT to monitor for hemorrhage - stable
   .
   # FEN: IVF bolus as above, TF, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   .
   # Access: midline, 2  peripherals, A line
   .
   # Code: full  (discussion with sister today re: goals of care)
   .
   # Communication: Sister ; palliative care and social work following.
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2178-08-05 07:50:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 4443**] is a 53 year-old female with a recent
   diagnosis of non-small cell lung cancer now with post-obstructive
   pneumonia and worsening bilateral airspace disease.
   24 Hour Events:
   - Patient spiked fever to 101.4 and blood / urine  / sputum cultures
   obtained in setting of discontinuing Vancomycin on [**8-3**].  WBC count
   jumped to 17 from 10.8.
   - Patient code status DNR s/p family meeting yesterday
   - Palliative care may be used during family meetings [**First Name8 (NamePattern2) **] [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 2377**]
   [**Pager number 10042**] (or email if more than 24 hours in advance)
   - patient with continued fluctuations in blood gas without changes in
   ventilator settings, at one point becoming hypercapnic  7.32/81/153
   although SpO2 remained normal throughout, now FiO2 down to 70% this AM
   from 90% with most recent gas of  7.35/73/82.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-3**] 08:41 AM
   Micafungin - [**2178-8-3**] 09:43 PM
   Caspofungin - [**2178-8-4**] 08:30 PM
   Bactrim (SMX/TMP) - [**2178-8-4**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-5**] 03:30 AM
   Ciprofloxacin - [**2178-8-5**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-4**] 08:00 PM
   Lansoprazole (Prevacid) - [**2178-8-4**] 08:00 PM
   Midazolam (Versed) - [**2178-8-4**] 11:08 PM
   Fentanyl - [**2178-8-4**] 11:10 PM
   Diazepam (Valium) - [**2178-8-5**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-5**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.7
   HR: 95 (91 - 112) bpm
   BP: 92/51(64) {89/47(60) - 116/67(83)} mmHg
   RR: 28 (28 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  4,064 mL
                                                                    875 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    437 mL
   IVF:
                                                                  2,397 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    540 mL
   Urine:
                                                                  1,365 mL
                                                                    540 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                  2,449 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 28.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.35/73.[**Numeric Identifier 218**]/81.[**Numeric Identifier 508**]/35/10
   Ve: 10.3 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General: NAD, comfortable, does not respond to commands or stimulation
   HEENT: no JVP
   Lungs: diffuse rhonchi with decreased airflow on R > L, worse than
   yesterday
   Heart: RRR, no MRG
   Abdomen: soft, NTND, ABS
   Ext: WWP, CR < 1s, no CCE
   Labs / Radiology
   331 K/uL
   7.5 g/dL
   203 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.5 mEq/L
   23 mg/dL
   91 mEq/L
   135 mEq/L
   24.2 %
   17.2 K/uL
        [image002.jpg]
                             [**2178-8-3**]  05:06 PM
                             [**2178-8-4**]  03:05 AM
                             [**2178-8-4**]  03:28 AM
                             [**2178-8-4**]  12:41 PM
                             [**2178-8-4**]  04:12 PM
                             [**2178-8-4**]  09:11 PM
                             [**2178-8-4**]  11:01 PM
                             [**2178-8-5**]  03:00 AM
                             [**2178-8-5**]  03:04 AM
                             [**2178-8-5**]  05:47 AM
   WBC
   10.8
   17.2
   Hct
   25.8
   24.2
   Plt
   237
   331
   Cr
   0.4
   0.4
   0.4
   TCO2
   43
   42
   41
   44
   42
   41
   42
   Glucose
   139
   221
   203
   Other labs: PT / PTT / INR:12.3/29.7/1.0, ALT / AST:51/31, Alk Phos / T
   Bili:115/0.1, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:1.9 g/dL,
   LDH:445 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Sputum Gram Stain [**8-5**] - > 25 PMN, 2 + GNR, 1 + budding yeast
   C-Diff
 negative x 2
   Blood Cx
 pending
   Urine Cx
 pending
   HSV Cx - pending
   Assessment and Plan
 SHOCK, SEPTIC
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan: This is a 53 yo w/ recent dx of NSCLC who
   presented to OSH with pneumonia.  Y-stent removed and patient was
   transferred to ICU for further management.
   # Respiratory failure
 patient continues to deteriorate with CXR
   demonstrating worsening left sided infiltrates concerning for infection
   vs. hemorrhage vs. carcinomatosis vs. fluid overload
   - continue broad spectrum antibiotics given prior gram stain, and
   continue IV bactim 320 mg IV q8H given + culture for stenotrophomonas
   - will f/u pan Cx drawn [**8-4**] and consider re-adding Vancomycin
   considering fever spike s/p D/C on [**8-3**] and jump in WBC from 10 to 17
   - continue mechanical ventilation and titrate RR, PEEP, FiO2 to goal of
   pCO2 60 and pO2  > / = 60
   - continue to follow serial ABG
   - will consider balloon placement considering developing bilateral air
   space disease to identify optimal PEEP
   - will continue to follow serial hematocrits to exclude pulmonary
   hemorrhage - stable
   # Hypotension
 likely related to sepsis with post-obstructive
   pneumonia as source
   - patient has remained stable and has not required pressors, will bolus
   PRN to maintain MAP > 65
   # PNA
 patient with post-obstructive RUL and now worsening airspace
   disease throughout left lung field likely representing spread of
   infection.  Patient was also noted initially to have thrush in mouth at
   intubation in the setting of steroid therapy for her cancer diagnosis.
   - will continue broad spectrum antibiotics pending cultures (estimated
   2-3 days) and IV bactrim for culture + stenotrophomonas, will continue
   antifungal coverage with micafungin given appearance of thrush and
   immunosuppresion.
   - will consider adding Vancomycin given fever spikes s/p DC on [**8-3**] and
   bump in WBC counts
   .
   # Perianal Ulcers
   -  f/u wound Cx for HSV - pending
   # NSCLC
 patient was receiving decadron initially for airway
   inflammation now on vent
   - decadron to be tapered over 2 weeks, now 2 mg [**Hospital1 7**]
 may consider
   changing to 1.5 mg AM and 2 mg PM
   - XRT to be deferred for now as peritracheal mass in RUL may lead to
   more disseminate infection and worsening clinical picture, also patient
   may not be able to tolerate transport out of the MICU at this time
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - will continue serial HCT to monitor for hemorrhage - stable
   .
   # FEN: IVF bolus as above, TF, replete electrolytes, increase SS to
   maintain sugars < 200, may consider diuresis today considering 2 L
   positive since yesterday
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   # Access: midline, 2  peripherals, A line
   # Code: full  (discussion with sister today re: goals of care)
   .
   # Communication: Sister ; palliative care and social work following.
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2178-8-3**] 10:59 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   Midline - [**2178-7-31**] 12:30 PM
   20 Gauge - [**2178-8-2**] 02:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-08-06 07:02:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 4443**] is a 53 year-old female with a recent
   diagnosis of non-small cell lung cancer who admitted to OSH on [**7-27**] for
   dyspnea for 1-2 days PTA.  In addition, she reported increased
   respiratory secretions, fevers and chills.  At OSH, she was found to
   have PNA and there was concern about a possible stent obstruction so
   she was transferred to BICMC on [**7-29**] for urgent bronchscopy and stent
   evaluation.  On [**7-29**] she underwent rigid bronchoscopy and it was found
   that her y-stent migrated so it was removed.  She was noted to have
   thrush in her trachea.  She was intubated for the procedure and it was
   decided to keep the patient ventillated post-bronch given the severity
   of her PNA.
   24 Hour Events:
   -ID recs: start meropenem 500 q6 and d/c zosyn, continue cipro and
   bactrim, add back vancomycin for fever spikes + inc. WBC, consider
   replacing midline if fever spikes continue or BCx+
   -Palliative recs: continued patient decline despite aggressive
   treatments, recommend transition to CMO if family agrees
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2178-8-4**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-5**] 11:30 AM
   Vancomycin - [**2178-8-5**] 12:11 PM
   Micafungin - [**2178-8-5**] 08:06 PM
   Bactrim (SMX/TMP) - [**2178-8-6**] 12:15 AM
   Ciprofloxacin - [**2178-8-6**] 05:03 AM
   Meropenem - [**2178-8-6**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-5**] 08:19 PM
   Lansoprazole (Prevacid) - [**2178-8-5**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-6**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 72 (72 - 98) bpm
   BP: 91/50(63) {87/42(56) - 102/55(68)} mmHg
   RR: 28 (21 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  4,175 mL
                                                                  1,094 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    142 mL
   IVF:
                                                                  2,557 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    415 mL
   Urine:
                                                                  1,725 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,450 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 65%
   RSBI Deferred: CMO
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/54/106/36/12
   Ve: 10 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General: NAD, some response to questions
   HEENT: MMM, no JVP visible
   Heart: RRR, without MRG
   Lungs: diffuse rhonchi with decreased airflow throughout right lung
   fields and left lower lobe
   Abdomen: NTND, ABS
   Extremities: NT, no CCE, WWP, CR < 2s
   Labs / Radiology
   368 K/uL
   6.1 g/dL
   130 mg/dL
   0.4 mg/dL
   36 mEq/L
   5.0 mEq/L
   25 mg/dL
   96 mEq/L
   135 mEq/L
   20.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2178-8-4**]  09:11 PM
                             [**2178-8-4**]  11:01 PM
                             [**2178-8-5**]  03:00 AM
                             [**2178-8-5**]  03:04 AM
                             [**2178-8-5**]  05:47 AM
                             [**2178-8-5**]  11:28 AM
                             [**2178-8-5**]  12:30 PM
                             [**2178-8-5**]  05:39 PM
                             [**2178-8-6**]  03:20 AM
                             [**2178-8-6**]  03:24 AM
   WBC
   17.2
   12.9
   Hct
   24.2
   20.0
   Plt
   331
   368
   Cr
   0.4
   0.4
   TCO2
   44
   42
   41
   42
   41
   42
   41
   40
   Glucose
   203
   130
   Other labs: PT / PTT / INR:12.3/29.7/1.0, ALT / AST:51/31, Alk Phos / T
   Bili:115/0.1, Amylase / Lipase:37/11, Differential-Neuts:99.0 %,
   Band:0.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:1.9 g/dL, LDH:445 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Micro
   - blood Cx
 pending
   - urine Cx
 pending
   - sputum Cx
 pending, GNR
s on GS
   - wound Cx
 HSV like cytopathic effect, final Cx pending
   Assessment and Plan
   Assessment and Plan:  53 yof w/ recent dx of NSCLC who presented to OSH
   with pneumonia.  Y-stent removed and patient was transferred to ICU,
   intubated for further management.
   # Respiratory failure
 patients clinical status continues to worsen
   with CXR consistent for spreading infection
   - define goals of care and consider CMO with trial of extubation
   - will continue mechanical ventilation and titrate FIO2, PEEP to goal
   pO2  > / = 60 until goals of care formerly clarified
   - f/u pan-cultures drawn [**8-4**] for temperature spike
   # PNA
 post-obstructive RUL with worsening airspace disease throughout
   lung fields bilateral likely representing spread of infection.  Patient
   noted to initially have oral thrush at time of intubation in the
   setting of steroid therapy for her malignancy.
   Patient has remained afebrile since temperature spike on [**8-4**]  and WBC
   down to 12.9 from 17.2
   - continue broad spec antibiotics with IV bactrim for Cx +
   stenotrophomonas with micafungin for fungal coverage in setting of
   immunosuppression and visualized thrush at time of intubation
   - will add meropenum with vancomycin for temperature spike and
   discontinue Zosyn per ID recommendations.  If continued temperature
   spikes will consider replacing midline and arterial line.
   - f/u pan-cultures s/p temperature spike
    .
   # Perianal Ulcers
   -  f/u wound Cx for HSV
 HSV like cytopathic effect with Cx pending
   # NSCLC
 patient was receiving decadron initially for airway
   inflammation now on vent
   - hold off on full decadron taper considering picture of worsening
   infection
 do not want jeopardize steroid levels and adrenal function
   in current clinical setting
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - serial HCT to monitor for hemorrhage - stable
   # FEN: IVF bolus as above, TF, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
   # Access: midline, 2  peripherals, A line
   # Code: DNR  (continued ongoing discussion with sister today re: goals
   of care, considering CMO).  After discussions with family, patient is
   now in process of defining CMO with potential trial of terminal
   extubation.  In this setting, surveillance and basic labs, imaging will
   stop and current care will continue until otherwise specified.
   # Communication: Sister ; palliative care and social work following.
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   Midline - [**2178-7-31**] 12:30 PM
   20 Gauge - [**2178-8-2**] 02:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-08-07 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -not getting anymore labs/xrays
   -likely transitioning to CMO- siblings/family all assembling to make
   decision tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2178-8-4**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-5**] 11:30 AM
   Vancomycin - [**2178-8-5**] 12:11 PM
   Ciprofloxacin - [**2178-8-6**] 06:30 PM
   Micafungin - [**2178-8-6**] 08:13 PM
   Bactrim (SMX/TMP) - [**2178-8-7**] 12:30 AM
   Meropenem - [**2178-8-7**] 06:16 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2178-8-6**] 01:22 PM
   Lansoprazole (Prevacid) - [**2178-8-6**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-6**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.2
C (95.3
   HR: 62 (58 - 75) bpm
   BP: 94/53(69) {83/44(58) - 117/65(86)} mmHg
   RR: 28 (28 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 55.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,884 mL
                                                                    824 mL
   PO:
             TF:
                                                                    142 mL
   IVF:
                                                                  2,657 mL
                                                                    824 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,022 mL
                                                                    205 mL
   Urine:
                                                                  1,022 mL
                                                                    205 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    862 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 100%
   RSBI Deferred: CMO
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 27 cmH2O/mL
   SpO2: 99%
   ABG: ////
   Ve: 9.8 L/min
   Physical Examination
   gen: intubated, sedated
   cv: rrr
   resp: occ rhonchi
   abd: soft, NT
   ext: no c/c/e
   Labs / Radiology
   368 K/uL
   6.1 g/dL
   130 mg/dL
   0.4 mg/dL
   36 mEq/L
   5.0 mEq/L
   25 mg/dL
   96 mEq/L
   135 mEq/L
   20.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2178-8-4**]  09:11 PM
                             [**2178-8-4**]  11:01 PM
                             [**2178-8-5**]  03:00 AM
                             [**2178-8-5**]  03:04 AM
                             [**2178-8-5**]  05:47 AM
                             [**2178-8-5**]  11:28 AM
                             [**2178-8-5**]  12:30 PM
                             [**2178-8-5**]  05:39 PM
                             [**2178-8-6**]  03:20 AM
                             [**2178-8-6**]  03:24 AM
   WBC
   17.2
   12.9
   Hct
   24.2
   20.0
   Plt
   331
   368
   Cr
   0.4
   0.4
   TCO2
   44
   42
   41
   42
   41
   42
   41
   40
   Glucose
   203
   130
   Other labs: PT / PTT / INR:12.3/29.7/1.0, ALT / AST:51/31, Alk Phos / T
   Bili:115/0.1, Amylase / Lipase:37/11, Differential-Neuts:99.0 %,
   Band:0.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:1.9 g/dL, LDH:445 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Microbiology:  GRAM NEGATIVE ROD(S) WORK UP REQUESTED BY [**Name6 (MD) **] [**Name8 (MD) **],MD
   #[**Numeric Identifier 10082**].
         ENTEROBACTER AEROGENES.    >100,000 ORGANISMS/ML..
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.
            >100,000 ORGANISMS/ML..
         YEAST.    10,000-100,000 ORGANISMS/ML..
         ENTEROBACTER CLOACAE.    ~[**2168**]/ML.
   Assessment and Plan
 HYPERGLYCEMIA
 INEFFECTIVE COPING
 SHOCK, SEPTIC
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   Assessment and Plan:  53 yof w/ recent dx of NSCLC who presented to OSH
   with pneumonia.  Y-stent removed and patient was transferred to ICU,
   intubated for further management.
   # Respiratory failure
 patients clinical status continues to worsen,
   unlikely to improve now that cannot stent
   - define goals of care and consider CMO and extubation
   - will continue mechanical ventilation until family gathers, have not
   been checking abgs but trying to keep O2 saturation >88%
   - f/u pan-cultures drawn [**8-4**] for temperature spike
   # PNA
 post-obstructive RUL with worsening airspace disease throughout
   lung fields bilateral likely representing spread of infection.  Patient
   noted to initially have oral thrush at time of intubation in the
   setting of steroid therapy for her malignancy.
   Patient has remained afebrile since temperature spike on [**8-4**]  and WBC
   down to 12.9 from 17.2
   - continue IV bactrim for Cx + stenotrophomonas with micafungin for
   fungal coverage in setting of immunosuppression and visualized thrush
   at time of intubation
   - GNRs from BAL include 2 species of enterobacter, both sensitive to
   cephalosporins and bactrim as well as [**Last Name (un) 10083**], could narrow abx but for
   now will hold pending d/w family re GOC and withdrawing care
   - hsv swab positive so could also consider adding acyclovir 400mg PO
   TID
   -will d/c vancomycin as no fevers x24hrs (per ID rec)
   - f/u pan-cultures
    .
   # Perianal Ulcers
   -  f/u wound Cx for HSV
 HSV like cytopathic effect with Cx pending
   # NSCLC
 patient was receiving decadron initially for airway
   inflammation now on vent
   - hold off on full decadron taper considering picture of worsening
   infection
 do not want jeopardize steroid levels and adrenal function
   in current clinical setting
   # Anemia/Thrombocytopenia - most likely secondary to recent
   chemotherapy.
   - serial HCT to monitor for hemorrhage - stable
   # FEN: IVF bolus as above, TF, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, PPI, bowel reg.
    # Access: midline, 2  peripherals, A line
    # Code: DNR  (continued ongoing discussion with sister today re: goals
   of care, considering CMO).  After discussions with family, now in
   process of defining CMO with potential trial of terminal extubation.
   In this setting, surveillance and basic labs, imaging will stop and
   current care will continue until otherwise specified.
    # Communication: Sister; palliative care and social work following.
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-29**] 08:12 PM
   Midline - [**2178-7-31**] 12:30 PM
   20 Gauge - [**2178-8-2**] 02:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: